US07432284B2
2-allyl-2-butyl-5-chloro-7-fluoro-6-methoxy-3,4-dihydro-2H-naphthalen-1-one (40 mg, 0.12 mmol) was dissolved in acetonitrile (0.36 mL) and treated with benzoquinone (20 mg, 0.18 mmol), Pd(OAc)2 (5 mg. 0.02 mmol), water (0.018 mL) and perchloric acid (70%, 0.005 mL) to give an orange solution. This solution was stirred under an air atmosphere for 16.5 hours, then purified by preparative layer chromatography on a 0.1×20×20 cm silica gel GF plate (Analtech, Newark, Del.), developing with 4:1 hexane-EtOAc. The band at Rf 0.53-0.59 was eluted with 5% MeOH in CH2Cl2 to give 2-butyl-5-chloro-7-fluoro-6-methoxy-2-(2-oxopropyl)-3,4-dihydro-2H-naphthalen-1-one as a slightly yellow oil.

reactant | 2-allyl-2-butyl-5-chloro-7-fluoro-6-methoxy-3,4-dihydro-2H-naphthalen-1-one | 0.12 mmol, 40 mg | C(C=C)C1(C(C2=CC(=C(C(=C2CC1)Cl)OC)F)=O)CCCC | C18H22ClFO2
reactant | benzoquinone | 0.18 mmol, 20 mg | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | water | 0.018 mL | O | H2O
reactant | perchloric acid | 0.005 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetonitrile | 0.36 mL | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.02 mmol, 5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-butyl-5-chloro-7-fluoro-6-methoxy-2-(2-oxopropyl)-3,4-dihydro-2H-naphthalen-1-one | C(CCC)C1(C(C2=CC(=C(C(=C2CC1)Cl)OC)F)=O)CC(C)=O | C18H22ClFO3
